US06265434B1
Step B: Ethyl difluoro(6-methylpyridazin-3-yl)acetate
This procedure is derived from the general method of T. Taguchi, et al. (Tetrahedron Lett., 1986,27,6103-6106). Ethyl difluoroiodoacetate (0.355 mL, 651 mg, 2.60 mmol) was added to a rapidly stirred suspension of copper powder (333 mg, 5.24 mmol) in DMSO (6.5 mL) at RT. After 50 min., 3-bromo-6-methylpyridazine (300 mg, 1.73 mmol) was added in DMSO (1.0 mL). After 20 h, the mixture was transferred to a separatory funnel containing water (25 mL) and saturated aq. NH4Cl (25 mL), and extracted with EtOAc (2×50 mL). The organic extracts were washed with saturated aq. NaCl, dried (Na2SO4), decanted, and evaporated. Purification by flash column chromatography on silica gel, eluting with 70:30 v/v hexanes/EtOAc, gave 363 mg of the title compound as an amber liquid. For the title compound: 1H NMR (500 MHz, CDCl3) δ 7.79 (d, J=9, 1H), 7.53 (d, J=9, 1H), 4.43 (q, J=7, 2H), 2.82 (s, 3H), 1.38 (t, J=7, 3H).

reactant | Ethyl difluoroiodoacetate | 2.60 mmol, 0.355 mL, 651 mg | FC(C(=O)OCC)(I)F | C4H5F2IO2
reactant | 3-bromo-6-methylpyridazine | 1.73 mmol, 300 mg | BrC=1N=NC(=CC1)C | C5H5BrN2
reactant | water | 25 mL | O | H2O
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | DMSO | 6.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
catalyst | copper | 5.24 mmol, 333 mg | [Cu] | Cu
product | Ethyl difluoro(6-methylpyridazin-3-yl)acetate | 363 mg | FC(C(=O)OCC)(C=1N=NC(=CC1)C)F | C9H10F2N2O2
